US07094777B2
Step 2: 6-Fluoro-3-[(3-{[(4-fluorophenyl)sulfonyl]methyl}azetidin-1-yl)methyl]-1,2-benzisothiazole hydrochloride
3-Bromomethyl-6-fluoro-1,2-benzisothiazole (73 mg, 0.3 mmol) was added to a mixture of 3-{[(4-fluorophenyl)sulfonyl]methyl}azetidine hydrochloride (57 mg, 0.21 mmol) and potassium carbonate (91 mg, 0.66 mmol) in DMF (2 mL) and the resulting mixture stirred at room temperature for 18 h. The mixture was diluted with 0.5M sodium hydroxide solution (20 mL) and extracted with EtOAc (2×10 mL). The organic extracts were washed with saturated brine (10 mL), combined, dried (MgSO4) and concentrated. The residue was purified by preparative thin layer chromatography, eluting with 2.5% MeOH/DCM, to afford an oil which crystallised on standing (35 mg, 41%). The solid was dissolved in EtOAc, the resulting solution heated and treated with 1M HCl in diethyl ether (0.11 mL). The mixture was allowed to cool to give a crystalline solid which was collected under suction to afford the title compound (21 mg). 1H NMR (400 MHz, CD3OD) δ 3.33–3.41 (1H, m), 3.72 (2H, d, J=7.6 Hz), 4.23–4.28 (2H, m), 4.44–4.49 (2H, m), 4.96 (2H, s), 7.35–7.46 (3H, m), 7.87–7.90 (1H, m), 7.99–8.04 (2H, m), 8.10–8.13 (1H, m). (471 MHz, CD3OD)δF −105.2, −112.7. m/z (ES+) 395 (M+H)+.

reactant | 3-Bromomethyl-6-fluoro-1,2-benzisothiazole | 0.3 mmol, 73 mg | BrCC1=NSC2=C1C=CC(=C2)F | C8H5BrFNS
reactant | 3-{[(4-fluorophenyl)sulfonyl]methyl}azetidine hydrochloride | 0.21 mmol, 57 mg | Cl.FC1=CC=C(C=C1)S(=O)(=O)CC1CNC1
reactant | potassium carbonate | 0.66 mmol, 91 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | sodium hydroxide | 0.5M, 20 mL | [OH-].[Na+]
product | 6-Fluoro-3-[(3-{[(4-fluorophenyl)sulfonyl]methyl}azetidin-1-yl)methyl]-1,2-benzisothiazole hydrochloride | 21 mg | Cl.FC1=CC2=C(C(=NS2)CN2CC(C2)CS(=O)(=O)C2=CC=C(C=C2)F)C=C1 | InChI=1S/C18H16F2N2O2S2.ClH/c19-13-1-4-15(5-2-13)26(23,24)11-12-8-22(9-12)10-17-16-6-3-14(20)7-18(16)25-21-17;/h1-7,12H,8-11H2;1H
